US09371319B2
Preparation 145: tert-Butyl 6-bromo-3-chloro-2-(oxazol-5-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate
5-(6-Bromo-3-chloro-1H-pyrrolo[3,2-c]pyridin-2-yl)oxazole (Preparation 144, 86 mg) was stirred in ethyl acetate (1.7 mL) and for 1 hour. The reaction was concentrated and the residue purified using preparative triethylamine (126 uL, 91 mg, 0.9 mmole) and a few crystals of DMAP were added, followed by di-t-butyl dicarbonate (131 mg, 0.6 mmole). The reaction was stirred at room temperature TLC eluting with 1:2 ethyl acetate:cyclohexane to afford the title compound (86 mg). 1H-NMR (CDCl3, 500 MHz): 1.48 (s, 9H), 7.45 (s, 1H), 8.09 (s, 1H), 8.38 (d, J=0.95 Hz), 8.72 (d, J=0.95 Hz, 1H).

reactant | 5-(6-Bromo-3-chloro-1H-pyrrolo[3,2-c]pyridin-2-yl)oxazole | 86 mg | BrC1=CC2=C(C=N1)C(=C(N2)C2=CN=CO2)Cl | C10H5BrClN3O
reactant | triethylamine | 0.9 mmole, 126 uL, 91 mg | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 0.6 mmole, 131 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 1.7 mL | C(C)(=O)OCC | C4H8O2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl 6-bromo-3-chloro-2-(oxazol-5-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | 86 mg | BrC1=CC2=C(C=N1)C(=C(N2C(=O)OC(C)(C)C)C2=CN=CO2)Cl | C15H13BrClN3O3
